US04410536
2-Benzyloxycarbonyl-1-methyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole
1 g of 5-hydrazino-3-methylbenzothiophene-2-carboxylic acid benzyl ester hydrochloride and 1 g of 4-piperidone hydrochloride monohydrate are boiled in 50 ml of isopropanol under N2 for 10 hours. The solvent is then evaporated off, the residue is suspended in water and the aqueous suspension is rendered alkaline with KHCO3 and extracted with ethyl acetate; the extract is washed, dried and evaporated and the residue is recrystallised from isopropanol. Melting point 178° C.

reactant | 5-hydrazino-3-methylbenzothiophene-2-carboxylic acid benzyl ester hydrochloride | 1 g | Cl.C(C1=CC=CC=C1)OC(=O)C=1SC2=C(C1C)C=C(C=C2)NN
reactant | 4-piperidone hydrochloride monohydrate | 1 g | O.Cl.N1CCC(CC1)=O
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | 2-Benzyloxycarbonyl-1-methyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole | C(C1=CC=CC=C1)OC(=O)C1=C(C2=C3C4=C(NC3=CC=C2S1)CCNC4)C | C22H20N2O2S
